US05817691
Preparation of 2-(p-Chlorophenyl)-3-(phenylsulfonyl)pyrrole
A solution of 2-(p-chlorophenyl)-3-(phenylthio)pyrrole (1.0 g, 3.5 mmol) in methanol is treated with a solution of potassium peroxymonosulfate (2.95 g) in water (7.6 mL), stirred at room temperature for 5 hours, diluted with additional methanol, treated with a solution of potassium peroxymonosulfate (2.5 g) in water (7.4 mL), stirred at room temperature overnight and filtered to obtain a solid which is washed with water and dried to give the title product as a solid (mp 158°-159° C.).

reactant | 2-(p-chlorophenyl)-3-(phenylthio)pyrrole | 3.5 mmol, 1.0 g | ClC1=CC=C(C=C1)C=1NC=CC1SC1=CC=CC=C1 | C16H12ClNS
reactant | potassium peroxymonosulfate | 2.95 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | potassium peroxymonosulfate | 2.5 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | water | 7.6 mL | O | H2O
reactant | water | 7.4 mL | O | H2O
solvent | methanol | CO | CH4O
product | 2-(p-Chlorophenyl)-3-(phenylsulfonyl)pyrrole | ClC1=CC=C(C=C1)C=1NC=CC1S(=O)(=O)C1=CC=CC=C1 | C16H12ClNO2S
